US05538974
In the same manner as in Reference Example 12, methyl 7-chloro-3-oxo-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate was reduced with sodium borohydride to give cis-isomer and trans-isomer of methyl 7-chloro-3-hydroxy-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate. Trans-isomer

reactant | methyl 7-chloro-3-oxo-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate | ClC=1C=CC2=C(SC(C(CO2)=O)(C(=O)OC)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | C24H27ClN2O4S
reactant | sodium borohydride | [BH4-].[Na+]
product | methyl 7-chloro-3-hydroxy-4-[3-(4-phenylpiperazin-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate | ClC=1C=CC2=C(SC(C(CO2)O)(C(=O)OC)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | C24H29ClN2O4S
